US04316893
Preparation of 1-n-propylazacycloheptan-2-one having the formula
In a 1 liter 3-neck flask equipped with a dry ice-isopropanol condenser, an addition funnel and a mechanical stirrer was placed 10.2 g of 50% sodium hydride-mineral oil disperson (5.1 g NaH, 0.2125 M) and 150 ml of petroleum ether. Thus suspension was momentarily stirred and then sodium hydride was allowed to settle. Most of the petroleum ether was pipetted out and 200 ml of dry toluene was added. To this was added dropwise a solution of 20 g (0.177 M) of azacycloheptan-2-one in 100 ml of dry toluene. The mixture was refluxed for 1 hour and then cooled to room temperature. A solution of 30.75 g (0.25 M) of 1-bromopropane in 100 ml of dry toluene was added dropwise under stirring. Upon completion of the addition, the mixture was warmed to 80°-100° and the temperature was maintained there for 4 hours. Then the isopropanol-dry ice condenser was replaced with a water condenser and the reaction mixture was heated to reflux for 15 hours. The reaction mixture was cooled, filtered and the filtrate was concentrated to a yellow oil. Distillation afforded 22.2 g (81%) of colorless product; b.p. 83°-86° /0.25 mm.

reactant | sodium hydride | 10.2 g | [H-].[Na+]
reactant | NaH | 5.1 g | [H-].[Na+]
reactant | azacycloheptan-2-one | 0.177 M, 20 g | N1C(CCCCC1)=O | C6H11NO
reactant | 1-bromopropane | 0.25 M, 30.75 g | BrCCC | C3H7Br
reactant | isopropanol dry ice | C(C)(C)O.C(=O)=O
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | 1-n-propylazacycloheptan-2-one | 22.2 g, 81% | C(CC)N1C(CCCCC1)=O | C9H17NO
